US06610688B2
To a solution of 5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid (306.3 mg, 2 mmol) in DMF (5 mL) was added HOBt (324.3 mg, 2.4 mmol), EDC (460.1 mg, 2.4 mmol) and then morpholine (0.21 mL, 2.4 mmol). The mixture was stirred at room temperature, under nitrogen for overnight. The reaction was diluted with ethyl acetate and washed with sodium bicarbonate. The aqueous layer was extracted several times with ethyl acetate. The combined organic layer was washed with brine, dried, concentrated and column chromatographed (MeOH/DCM) to give 395 mg (89%) of 4-methyl-5-(morpholine4-carbonyl)-1H-pyrrole-2-carbaldehyde as a light yellow foam solid. 1H NMR (360 MHz, DMSO-d6) δ 12.18 (br s, 1H, NH), 9.46 (s, 1H, CHO), 6.79 (s, 1H), 3.43 (m, 4H, 2×CH2), 2.29 (m, 4H, 2×CH2), 2.17 (s, 3H, CH3), 2.01 (s, 3H, CH3).

reactant | 5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid | 2 mmol, 306.3 mg | C(=O)C1=CC(=C(N1)C(=O)O)C | C7H7NO3
reactant | HOBt | 2.4 mmol, 324.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 2.4 mmol, 460.1 mg
reactant | morpholine | 2.4 mmol, 0.21 mL | N1CCOCC1 | C4H9NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methyl-5-(morpholine4-carbonyl)-1H-pyrrole-2-carbaldehyde | 395 mg, 89% | CC=1C=C(NC1C(=O)N1CCOCC1)C=O | C11H14N2O3
